US04377695
8-[3-(3-Chlorophenyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid
The product is produced as described in example 22 from 9.3 g. of 8-[3-(3-chlorophenyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester and 2.56 g. of NaOH.

reactant | 8-[3-(3-chlorophenyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)C2=CC(=CC=C2)Cl)=O)=O | C22H25ClN2O3
reactant | NaOH | [OH-].[Na+]
product | 8-[3-(3-Chlorophenyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid | ClC=1C=C(C=CC1)N1C(N(C2=C1C=CC=C2)CCCCCCCC(=O)O)=O | C21H23ClN2O3
